Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd pain, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with hx HTN, gallstones and previous rectal bleeding 
presenting with abdominal pain and vomiting x1 day. Pt reports 
acute onset of abd pain and NBNB emesis around yesterday at noon 
after eating oatmeal. He also describes burning chest pain with 
similar onset as his abdominal pain. Denies fever/chills, cough, 
SOB, +constipation but no no diarrhea. Has history of urinary 
burning and endorses this as well today. Reports that he has 
vomited about 10 times since yesterday. 

Of note recent choledocholithiasis with ERCP that was unable to 
cannulate the CBD.
 
In the ED, initial vital signs were: 
97.6 73 148/67 16 100% RA .  
- Exam notable for: Not documented 
- Labs were notable for WBC of 5.8 with 92.7 PMNs, H/H ___, 
normal LFT, normal Chem 7, trop 0.01 x2, lactate of 2.4. 
Unremarkable UA. 
 - Studies performed include unremarkable cxray. Multiple 
findings on CT abd/pelvis that are unchanged but notably stable 
CBD duct dilation. However there is new and mild pancreatic duct 
dilation.
 - Patient was given morphine IV x2, Zofran x3, 3L IVF, GI 
cocktail, Ativan IV x1.
 - Vitals on transfer:  98.1 60 139/56 18 100% RA 

Upon arrival to the floor, the patient is well appearing just 
complaining of ___ abd pain
 
Past Medical History:
HTN
Choledocholithiasis
IPMN
GERD
Bladder spasm
 
Social History:
___
Family History:
Family history of heart disease in father and grandfather
 
Physical Exam:
on admission:
 Vitals- T 98.6 HR 60 BP 128/58 RR 18 SaO2 100%RA
 General:  NAD, well appearing, ___ speaking
 HEENT:  NCAT, PERRLA, EOMI, MMM, OP clear
 Neck:  supple, no elevated JVP
 CV:  RRR, nl S1 and S2, no mrg
 Lungs:  CTAB without wheezes or crackles
 Abdomen:  soft, nt, nd, no hsm, tmypanitic globally
 GU:  no foley
 Ext:  wwp, no peripheral cyanosis, trace pedal edema
 Neuro:  AOx3, CN2-12 grossly intact, moves all extremities 
freely
 Skin: scattered cherry hemangiomas and skin tags, no suspicious 
rashes or lesions

on discharge:
 Vitals- T 97.7 145/68 54 18 100%RA
 General:  NAD, well appearing, ___ speaking
 HEENT:  NCAT, PERRLA, EOMI, MMM, OP clear
 CV:  RRR, nl S1 and S2, no mrg
 Lungs:  CTAB without wheezes or crackles
 Abdomen:  soft, nt, nd
 Ext:  wwp, no peripheral cyanosis, trace pedal edema
 Neuro:  AOx3, CN2-12 grossly intact, moves all extremities 
freely
 
 
Pertinent Results:
on admission:

___ 09:30PM BLOOD WBC-5.8# RBC-3.79* Hgb-10.1* Hct-31.2* 
MCV-82 MCH-26.6 MCHC-32.4 RDW-15.9* RDWSD-47.8* Plt ___
___ 09:30PM BLOOD Neuts-92.7* Lymphs-5.7* Monos-1.0* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-5.32 AbsLymp-0.33* 
AbsMono-0.06* AbsEos-0.00* AbsBaso-0.02
___ 11:09PM BLOOD ___ PTT-22.5* ___
___ 10:05AM BLOOD Ret Aut-1.2 Abs Ret-0.04
___ 09:30PM BLOOD Glucose-155* UreaN-20 Creat-1.0 Na-139 
K-4.3 Cl-102 HCO3-23 AnGap-18
___ 09:30PM BLOOD ALT-11 AST-24 AlkPhos-78 TotBili-0.5
___ 09:30PM BLOOD Lipase-45
___ 09:30PM BLOOD cTropnT-<0.01
___ 03:30AM BLOOD cTropnT-<0.01
___ 10:05AM BLOOD cTropnT-<0.01
___ 09:30PM BLOOD Albumin-4.4
___ 10:05AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.2 Iron-44*
___ 10:05AM BLOOD calTIBC-359 Ferritn-8.6* TRF-276
___ 09:43PM BLOOD Lactate-2.4*

on discharge:

___ 07:12AM BLOOD WBC-4.5 RBC-3.56* Hgb-9.5* Hct-29.8* 
MCV-84 MCH-26.7 MCHC-31.9* RDW-16.0* RDWSD-49.0* Plt ___

Imaging:
CHEST (PA & LAT)Study Date of ___ 6:33 AM
IMPRESSION: 
 
No acute cardiopulmonary process.  Hyperinflated lungs.

CT ABD & PELVIS WITH CONTRASTStudy Date of ___ 11:11 ___
IMPRESSION:
 
1. Stable CBD dilation measure up to 8 mm, unchanged from MRCP 
from ___.
2. Minimal/mild prominence of the main pancreatic duct measuring 
up to 3 mm at
the pancreatic head.
3. Cholelithiasis.
4. Stable bilateral adrenal adenomas.
5. Stable hepatic hemangiomas.
6. Mild periportal edema and diffuse mesenteric haziness likely 
relates to
volume resuscitation.
7. Multiple bilateral simple renal cysts measuring up to 4.9 cm.
8. Colonic diverticulosis.  Enlarged prostate.  Other incidental 
findings, as
above.
 
Brief Hospital Course:
Mr. ___ is a ___ with hx HTN, gallstones and previous 
rectal bleeding presenting with abdominal pain and vomiting x1 
day.

#Viral gastroenteritis: Pt without elevated WBC, presented 
reporting x1d of NBNB emesis and nausea with abd and lower chest 
pain. Upon presentation, the patient had no evidence of 
SIRS/sepsis. Initially with lactate 2.4, 40 ketones in urine 
corroborating h/o poor PO and emesis. Further lab testing showed 
a negative lipase making pancreatitis unlikely, unlikely acute 
cholecystitis based on labs and CT abd/pelvis (which was 
negative for an acute process otherwise). This made the most 
likely diagnosis viral gastroenteritis. Given that the patient 
complained of chest pain, EKG was completed which showed no 
ischemic changes and x3 serial troponins were negative. Of note 
the pt did have a recent admission for choledocholithiasis with 
failed ERCP given inability to cannulate CBD, also with known 
likely IPMN (though panc duct size wnl's based on CT). The 
patient was treated conservatively with IVF, pain medications, 
and anti-emetics which improved his symptoms dramatically. He 
was kept in house overnight given a report of one episode of 
black emesis during his vomiting given concern for possible 
esophageal tear with retching. However, hemoglobin was stable 
over the next ___ hours and he was deemed safe for discharge. 

#Anemia: On CBC and given report of black emesis, pt found to 
have microcytic anemia, iron studies were drawn which showed a 
very low ferritin and a low MCV, consistent with a diagnosis of 
iron deficiency anemia. This was though to be d/t occult GI 
losses secondary to known hemorroids and diverticulosis. The 
patient was given one dose of IV ferric gluconate, and was 
discharged on PO iron to be uptitrated as an outpatient.

Transitional issues:
#CT scan showed bilateral adrenal adenomas, the pt should have 
testing to determine if these are metabolically active or benign 
adenomas
#The pt was found to have iron deficiency anemia, and should 
continue iron supplementation on an outpatient basis
#The patient should likely have a conversation about goals of 
care, code status preferences and would benefit from having an 
appointed health care proxy
#The patient was also discharged with a PPI given his history of 
black emesis. This should be taken in the evenings to avoid 
interaction with his H2 blocker or should replace his H2 
blocker.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Ditropan XL (oxybutynin chloride) 5 mg oral DAILY 
4. Lidocaine Viscous 2% 15 mL PO TID:PRN pain 
5. Nifedical XL (NIFEdipine) 30 mg oral DAILY 
6. Aspirin 81 mg PO DAILY 
7. Ibuprofen 600 mg PO DAILY 
8. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Ranitidine 150 mg PO DAILY 
4. Omeprazole 40 mg PO QPM 
RX *omeprazole 40 mg 1 capsule(s) by mouth every night Disp #*30 
Capsule Refills:*0
5. Ditropan XL (oxybutynin chloride) 5 mg oral DAILY 
6. Lidocaine Viscous 2% 15 mL PO TID:PRN pain 
7. Lisinopril 20 mg PO DAILY 
8. Nifedical XL (NIFEdipine) 30 mg oral DAILY 
9. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every day Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis
Iron deficiency anemia

Chronic issues:
Hypertension
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___-

You were admitted to the hospital for abdominal pain and 
vomiting. You were noted to have had multiple episodes of 
vomiting and had evidence of dehydration when you presented to 
the hospital. A CT scan showed no evidence of issues with your 
biliary tract and no other reason for you to be having so much 
vomiting. You were also had no evidence of having a heart attack 
while in the hospital. You were given fluids through your IV and 
medicine to help with your nausea, which made you feel better. 
While you were in the hospital, you were noted to have very low 
levels of iron. You were given some iron through your IV, but 
you will need to continue to take iron pills in the future to 
help increase your body's stores. You should make an appointment 
with your primary care doctor within the next week to talk about 
your hospitalization. Please take all your medications as 
described below and we wish you all the best in the future.

-Your ___ Care Team
 
Followup Instructions:
___